US07723286B2
b) Synthesis of 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl 3-(dimethyl-amino)benzoate
To a solution of 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone (4.00 g, 92% pure, 17.5 mmol), 3-N,N-dimethylaminobenzoic acid (3.13 g, 19.0 mmol), and DMAP (1.85 g, 15.2 mmol) in CH2Cl2 (50 ml) was added N,N′-dicyclohexylcarbodiimine (DCC) (4.31 g, 20.9 mmol) in CH2Cl2 (15 ml). The reaction medium was stirred at room temperature for 70 h. Then, the mixture was acidified with concentrated HCl and extracted twice with ether and washed with water, saturated aqueous NaHCO3 and then with saturated aqueous NaCl. Finally, the organic phases were dried over Na2SO4, concentrated at 50-60°/0.03 mbar) and purified by flash-chromatography over SiO2 (cyclohexane/AcOEt=97:3). 4.20 g of product were thus obtained (yield: 68%).

reactant | 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone | 17.5 mmol, 4.00 g | OC(CC(=O)C1C(=CCCC1(C)C)C)C | C13H22O2
reactant | 3-N,N-dimethylaminobenzoic acid | 19.0 mmol, 3.13 g | CN(C)C1=CC=CC(=C1)C(=O)O | C9H11NO2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HCl | Cl | ClH
catalyst | DMAP | 15.2 mmol, 1.85 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl 3-(dimethyl-amino)benzoate | 4.20 g, yield: 68% | CN(C=1C=C(C(=O)OC(CC(C2C(=CCCC2(C)C)C)=O)C)C=CC1)C | C22H31NO3
